US09334286B2
Preparation 118: 3-Ethoxy-4-nitrobenzohydrazide
3-Ethoxy-4-nitrobenzoic acid (PCT Int Appl. 2008003958, 1.06 g 5.02 mmole) was stirred with dry THF (10 mL) and triethylamine (0.86 mL, 6.1 mmol) and the solution was cooled in an ice bath. Ethyl chloroformate (0.56 mL, 5.85 mmol) was added dropwise and the reaction was stirred in the ice bath for 15 minutes. Hydrazine hydrate (1.27 mL, 26 mmol) was added in one portion and the reaction stirred in the ice bath for 5 minutes and then at 20° C. for 1 hour. The reaction was concentrated in vacuo, partitioned between EtOAc (100 mL) and saturated aqueous sodium bicarbonate (15 mL). The organic layer was collected, washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound (1.07 g, 95%).

reactant | 3-Ethoxy-4-nitrobenzoic acid | 5.02 mmole, 1.06 g | C(C)OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H9NO5
reactant | triethylamine | 6.1 mmol, 0.86 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 5.85 mmol, 0.56 mL | ClC(=O)OCC | C3H5ClO2
reactant | Hydrazine hydrate | 26 mmol, 1.27 mL | O.NN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Ethoxy-4-nitrobenzohydrazide | 1.07 g, 95% | C(C)OC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C9H11N3O4
